US05252601
Dissolve cis-4-amino-cyclohexanecarboxylic acid, methyl ester hydrochloride (1.5 g) in water (5 mL) and add concentrated hydrochloric acid (5 mL). Reflux under an argon atmosphere for 12 hours and evaporate the solvent in vacuo to give cis-4-amino-cyclohexanecarboxylic acid hydrochloride.

reactant | cis-4-amino-cyclohexanecarboxylic acid, methyl ester hydrochloride | 1.5 g | Cl.N[C@H]1CC[C@H](CC1)C(=O)OC
reactant | hydrochloric acid | 5 mL | Cl | ClH
solvent | water | 5 mL | O | H2O
product | cis-4-amino-cyclohexanecarboxylic acid hydrochloride | Cl.N[C@H]1CC[C@H](CC1)C(=O)O | InChI=1S/C7H13NO2.ClH/c8-6-3-1-5(2-4-6)7(9)10;/h5-6H,1-4,8H2,(H,9,10);1H/t5-,6+;
